US05552438
4-Cyano-4-(3-Cyclopentyloxy-4-Methoxyphenyl)Cyclohex-1-ene-1-Carboxylic Acid
To a solution of methyl 4-cyano-4-(3-cyclopentyloxy-4-methoxyphenyl)cyclohex-1-ene-1-carboxylate (0.07 g, 0.18 mmol) in methanol (0.5 mL, containing just enough tetrahydrofuran to solubilize the ester) under an argon atmosphere was added a solution of potassium hydroxide (0.03 g, 0.55 mmol) in water (0.4 mL). The resulting mixture was stirred at room temperature for 4h, then poured into water and extracted with ethyl acetate. The aqueous phase was acidified with 3N hydrochloric acid and extracted twice with ethyl acetate. The organic phase from the acid extraction was dried (sodium sulfate) and concentrated under reduced pressure to provide a viscous oil, which solidified upon standing. The solid was recrystallized from hexanes/methylene chloride (0.05 g, 82%): m.p. 161°-163 ° C.

reactant | methyl 4-cyano-4-(3-cyclopentyloxy-4-methoxyphenyl)cyclohex-1-ene-1-carboxylate | 0.18 mmol, 0.07 g | C(#N)C1(CC=C(CC1)C(=O)OC)C1=CC(=C(C=C1)OC)OC1CCCC1 | C21H25NO4
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | potassium hydroxide | 0.55 mmol, 0.03 g | [OH-].[K+]
solvent | methanol | CO | CH4O
solvent | water | 0.4 mL | O | H2O
product | 4-Cyano-4-(3-Cyclopentyloxy-4-Methoxyphenyl)Cyclohex-1-ene-1-Carboxylic Acid | C(#N)C1(CC=C(CC1)C(=O)O)C1=CC(=C(C=C1)OC)OC1CCCC1 | C20H23NO4
